US09029560B2
Preparation of 1-[(4-methoxy-2-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC87)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(4-methoxy-2-methylphenyl)thiourea isolated as a white solid (0.105 g, 34%): 1H NMR (400 MHz, DMSO-d6) δ 11.78 (s, 1H), 10.07 (s, 1H), 9.42 (s, 1H), 8.13-8.05 (m, 2H), 8.04-7.96 (m, 2H), 7.66-7.57 (m, 2H), 7.53-7.45 (m, 1H), 7.42-7.32 (m, 2H), 7.01 (t, J=5.7 Hz, 1H), 6.85-6.81 (m, 1H), 6.76 (dd, J=8.7, 2.9 Hz, 1H), 3.74 (s, 3H), 3.45 (q, J=6.6 Hz, 2H), 2.89 (t, J=6.9 Hz, 2H), 2.15 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 517 ([M+H]+), 569 [(M−H)+].

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(4-methoxy-2-methylphenyl)thiourea | COC1=CC(=C(C=C1)NC(=S)N)C | C9H12N2OS
product | 1-[(4-methoxy-2-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | COC1=CC(=C(C=C1)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C27H25F3N6O3S
